US06972287B1
Preparation of 2-{4-[3-(3,4-Dichlorophenyl)propyl]phenylamino}-4-methoxy-5-nitrobenzoic acid methyl ester
A mixture of 4-[3-(3,4-dichloro-phenyl)propyl]phenylamine (0.94 g, 3.3 mmol), 2-fluoro-4-methoxy-5-nitro-benzoic acid methyl ester (0.75 g, 3.3 mmol), and Et3N (0.46 mL) in CH3CN (30 mL) was heated to reflux for 120 hours. The reaction mixture was cooled to room temperature, diluted with CH2Cl2 and washed with saturated NaHCO3. The organic layer was dried (Na2SO4) and concentrated to give a solid. Recrystallization with MeOH yielded 0.67 g (1.37 mmol, 42%) of the desired product.

reactant | 4-[3-(3,4-dichloro-phenyl)propyl]phenylamine | 3.3 mmol, 0.94 g | ClC=1C=C(C=CC1Cl)CCCC1=CC=C(C=C1)N | C15H15Cl2N
reactant | 2-fluoro-4-methoxy-5-nitro-benzoic acid methyl ester | 3.3 mmol, 0.75 g | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])OC)F)=O | C9H8FNO5
reactant | Et3N | 0.46 mL | CCN(CC)CC | C6H15N
solvent | CH3CN | 30 mL | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-{4-[3-(3,4-Dichlorophenyl)propyl]phenylamino}-4-methoxy-5-nitrobenzoic acid methyl ester | 1.37 mmol, 0.67 g, 42% | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])OC)NC1=CC=C(C=C1)CCCC1=CC(=C(C=C1)Cl)Cl)=O | C24H22Cl2N2O5
